US04654347
A mixture of 27.03 g of m-aminoacetophenone, 27.14 g of diisopropylethylamine, 22.8 g of ethylchloroformate and 300 ml of dichloromethane was reacted as described in Example 1, giving 37.9 g of (3-acetylphenyl)carbamic acid, ethyl ester.

reactant | m-aminoacetophenone | 27.03 g | NC=1C=C(C=CC1)C(C)=O | C8H9NO
reactant | diisopropylethylamine | 27.14 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | ethylchloroformate | 22.8 g | C(C)OC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 300 ml | ClCCl | CH2Cl2
product | (3-acetylphenyl)carbamic acid, ethyl ester | 37.9 g | C(C)(=O)C=1C=C(C=CC1)NC(OCC)=O | C11H13NO3
